US06887896B1
7-(7-ethoxy-4-isopropyl-2,2-dimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6Z-trienoic acid (Compound 48)
Following General Procedure G, ethyl 7-(7-ethoxy-4-isopropyl-2,2-dimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6Z-trienoate (Compound 38,30 mg, 0.70 mmol) was hydrolyzed with 1M NaOH. Purification by column chromatography (silica gel, 30% ethyl acetate in hexanes) followed by recrystallization from acetonitrile gave rise to the title compound as a light yellow solid.

reactant | ethyl 7-(7-ethoxy-4-isopropyl-2,2-dimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6Z-trienoate | 0.70 mmol, 38,30 mg | C(C)OC1=C(C=C2C(=CC(OC2=C1)(C)C)C(C)C)\C(=C/C=C/C(=C/C(=O)OCC)/C)\CC | C28H38O4
reactant | NaOH | 1M | [OH-].[Na+]
product | 7-(7-ethoxy-4-isopropyl-2,2-dimethyl-2H-chromen-6-yl)-3-methyl-nona-2E,4E,6Z-trienoic acid | C(C)OC1=C(C=C2C(=CC(OC2=C1)(C)C)C(C)C)\C(=C/C=C/C(=C/C(=O)O)/C)\CC | C26H34O4
